*******************************************************************************
*****************************************************************
* NXP PSMN8R3_40YS
*
* Polarity N-Channel
* Ratings 40V/8.30E-03OHMS/15A
*
* Date Created Wed Feb 17 11:16:44 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN8R3_40YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 400000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000712305557672599 TC=-0.000905477017485338,0.000104710931887896
RBD 9 4 0.00170558627440869 TC=-0.000905477017485338,0.000104710931887896
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 1.052e-09
RG 1 2 0.627840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1025
+ -8	1020
+ -6	1020
+ -4	1025
+ -2	738
+ 0	475.5
+ 0.1	401
+ 0.2	373
+ 0.5	319
+ 1	278
+ 2	242
+ 5	196
+ 10	167
+ 20	146
+ 25	139
+ 30	134



.MODEL MINT NMOS(Vto=3.66163679899897 Kp=2.9019e+01 Nfs=970000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=1000)

.MODEL DBD D(Bv=44.80 Ibv=1.00E-05 Rs=1E-6 Is=4.31290229345736e-13
+ N=1 M=0.54 VJ=0.56 Fc=0.5 Cjo=8.7e-10 Tt=1.5e-08)

.ENDS

*******************************************************************************
